US08957069B2
1-(3-Chloro-4-methylphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine hydrochloric acid salt (311 mg, 1.00 mmol) synthesized in Reference example 147 and 4-bromo-2-chloro-1-methylbenzene (308 mg, 1.50 mmol), the reaction was carried out in the same manner as Example 23 to obtain the title compound 213 mg (yield 58%).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine hydrochloric acid salt | 1.00 mmol, 311 mg | Cl.CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C
reactant | 4-bromo-2-chloro-1-methylbenzene | 1.50 mmol, 308 mg | BrC1=CC(=C(C=C1)C)Cl | C7H6BrCl
product | 1-(3-Chloro-4-methylphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 213 mg, yield 58% | ClC=1C=C(C=CC1C)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C24H31ClN2O
